US07728018B2
2,3-Diaza-spiro[4.5]dec-2-ene
C-(1-Aminomethyl-cyclohexyl)-methylamine (10.0 g) was taken up in a mixture of H2O (40 mL) and MeOH (10 mL), and cooled in an ice bath. Simultaneously, H2O2 (44.3 mL of a 30% solution, 6 equiv.) and NaClO (125.5 mL of a 10% solution, 2.4 equiv.) were added dropwise, the ice bath was removed, and the mixture was stirred for 45 min. at room temperature. Extraction with DCM, drying over Na2SO4 and evaporation under reduced pressure, yielded 8.7 g of a clear, light-yellow liquid. 1H NMR (400 MHz, CDCl3) δ 1.24-1.53 (m, 10H), 4.17 (s, 4H).

reactant | C-(1-Aminomethyl-cyclohexyl)-methylamine | 10.0 g | NCC1(CCCCC1)CN | C8H18N2
reactant | H2O2 | OO | H2O2
reactant | NaClO | [O-]Cl.[Na+]
solvent | H2O | 40 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 2,3-Diaza-spiro[4.5]dec-2-ene | C1N=NCC12CCCCC2 | C8H14N2
